US07626031B2
5-hydroxyoxindole
2-chloro-N-(4-methoxyphenyl)-acetamide (10 g) and Anhydrous aluminum trichloride (17 g) was heated to 120° C. for 15 minutes and then heated to 240° C. for 1 hour. The reaction was cooled to room temperature and quenched with ice water and Concentrate hydrochloride acid, and extracted with ethyl acetate (5×). Organic layers combined and dried over magnesium sulfate, filtered and concentrated in vacuo. The crude solid was flash chromatography (silica, ethyl acetate) to give product.

reactant | 2-chloro-N-(4-methoxyphenyl)-acetamide | 10 g | ClCC(=O)NC1=CC=C(C=C1)OC | C9H10ClNO2
reactant | aluminum trichloride | 17 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | 5-hydroxyoxindole | OC=1C=C2CC(NC2=CC1)=O | C8H7NO2
